US08022224B2
1-(3-BROMOBENZYL)-1H-(1,2,4)-TRIAZOLE (TJA01009, STX1360)
To a solution of 3-bromobenzylbromide (20.0 g, 80.0 mmol) in acetone (300 mL) was added 1,2,4-triazole (10.8 g, 120 mmol), potassium carbonate (11.0 g, 80.0 mmol) and potassium iodide (0.790 g, 4.72 mmol). The resulting white suspension was heated to 55° C. with vigorous stirring for 16 h. The yellow reaction mixture was cooled and ethyl acetate (100 mL) added. This was then washed with distilled water (100 mL×2), 1M NaOH(aq) (100 mL×2) and brine (100 mL). The organic layer was dried over Na2SO4, filtered and solvent removed in vacuo to leave clear yellow oil. The crude product was purified by column chromatography (ethyl acetate) to give the title compound as a yellow crystalline solid (12.4 g, 65%),

reactant | 3-bromobenzylbromide | 80.0 mmol, 20.0 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | 1,2,4-triazole | 120 mmol, 10.8 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 80.0 mmol, 11.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | acetone | 300 mL | CC(=O)C | C3H6O
catalyst | potassium iodide | 4.72 mmol, 0.790 g | [I-].[K+]
product | 1-(3-BROMOBENZYL)-1H-(1,2,4)-TRIAZOLE | 12.4 g, 65% | BrC=1C=C(CN2N=CN=C2)C=CC1 | C9H8BrN3
